US07368477B2
To a suspension of the 2-[(7-bromo-5-chloro-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione (0.500 g, 1.28 mmol), dichlorobis(tro-o-tolylphosphine)palladium(II) (0.101 g, 0.128 mmol), and potassium carbonate (0.531 g, 3.84 mmol) in dioxane (20 mL) and water (1 mL) heated to 90° C. was added phenylboronic acid (0.390 g, 3.20 mmol) and the reaction allowed to stir for 1 h. The reaction was cooled to room temperature, filtered (celite), and the solvent removed in vacuo to provide a crude residue. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:4) gave 0.422 g (85%) of 2-[(5-chloro-7-phenyl-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione as a white solid. mp 163-166° C.

reactant | 2-[(7-bromo-5-chloro-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione | 1.28 mmol, 0.500 g | BrC1=CC(=CC=2C=C(OC21)CN2C(C1=CC=CC=C1C2=O)=O)Cl | C17H9BrClNO3
reactant | potassium carbonate | 3.84 mmol, 0.531 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenylboronic acid | 3.20 mmol, 0.390 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | 2-[(5-chloro-7-phenyl-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione | 0.422 g, 85% | ClC=1C=C(C2=C(C=C(O2)CN2C(C3=CC=CC=C3C2=O)=O)C1)C1=CC=CC=C1 | C23H14ClNO3
